US07645771B2
A mixture of 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.2 g, 0.39 mmol), triethylamine (0.11 mL, 0.78 mmol) and trimethylacetyl chloride (0.053 mL, 0.43 mmol) in dichloromethane (4 mL) was stirred at rt for 1 h before the reaction mixture was quenched with saturated sodium bicarbonate solution. The organic layer was separated, dried, concentrated and purified by two successive chromatographies on silica gel using a dichloromethane to methanol:dichloromethane 1:20 gradient to give 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)-1-(2,2-dimethylpropanoyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole as a glass (0.06 g, 27%). 1H NMR (400 MHz, CDCl3) δ 7.67 (m, 1H), 7.29 (m, 1H), 7.17 (m, 2H), 7.09 (m, 1H), 7.00 (m, 1H), 6.93 (m, 1H), 4.72 (m, 1H), 3.90 (m, 2H), 3.37 (m; 4H), 2.61 (s, 3H), 2.47 (m, 2H), 1.89-2.11 (m, 8H), 1.78 (m, 6H), 1.27 (s, 9H). HRMS C33H42ClFN4O m/z 565.3109 (M+H)Cal., 565.3095 (M+H)Obs..

reactant | 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.39 mmol, 0.2 g | Cl.Cl.ClC=1C=C(C=C(C1)F)C1(CCNCC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C
reactant | triethylamine | 0.78 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.43 mmol, 0.053 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-((1R,5S)-8-{2-[4-(3-chloro-5-fluorophenyl)-1-(2,2-dimethylpropanoyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.06 g, 27% | ClC=1C=C(C=C(C1)F)C1(CCN(CC1)C(C(C)(C)C)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C33H42ClFN4O
